US07288674B2
After 72 mL of triethylamine was added dropwise to a mixture of the 61.9 g of above-obtained 1-naphthylglycine methyl ester hydrochloride and 390 mL of dichloromethane at an inner temperature of −40 to −50° C., 38 mL of trifluoroacetic anhydride was further added dropwise thereto at −45 to −50° C. over 1 hour. The mixture was further stirred at the same temperature for 1 hour to effect reaction and then, the reaction mixture was allowed to warm to 0° C. A mixture of 280 mL of cold water and 10 mL of concentrated hydrochloric acid was added to the reaction mixture and extraction treatment was carried out with 1,100 mL of dichloromethane. The organic layer obtained was washed with 280 mL of cold water. The organic layer obtained was dried over dehydrated sodium sulfate and then concentrated, and the precipitated crystals were filtered. After washing with cold dichloromethane, the crystals were dried at 60° C. inner temperature under reduced pressure to obtain 51.7 g of white N-(trifluoroacetyl)-1-naphthylglycine methyl ester (yield: 68%).

reactant | triethylamine | 72 mL | C(C)N(CC)CC | C6H15N
reactant | 1-naphthylglycine methyl ester hydrochloride | 61.9 g | Cl.COC(CNC1=CC=CC2=CC=CC=C12)=O
reactant | trifluoroacetic anhydride | 38 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydrochloric acid | 10 mL | Cl | ClH
solvent | dichloromethane | 1,100 mL | ClCCl | CH2Cl2
solvent | water | 280 mL | O | H2O
solvent | dichloromethane | 390 mL | ClCCl | CH2Cl2
product | N-(trifluoroacetyl)-1-naphthylglycine methyl ester | 51.7 g, yield: 68% | COC(CN(C(C(F)(F)F)=O)C1=CC=CC2=CC=CC=C12)=O | C15H12F3NO3
